US05438052
N-Hydroxy-7-mercapto-N,5-dimethyl-s-triazolo[1,5-a]pyrimidine-2-carboxamide (53 mg) (0.22 mmol) and 54 mg (0.2 mmol) of 7-aminocephalosporanic acid are suspended in 1 ml of dichloromethane/sulpholane (1:1 v/v). 0.5 ml of boron trifluoride diethyl etherate is added thereto at 10° C. while stirring and the mixture is stirred at room temperature for a further 20 hours. Subsequently, about 10 ml of dichloromethane are added thereto, the insoluble material is filtered off under suction, dissolved in water and the product is precipitated by the addition of sodium hydrogen carbonate (pH→4). The precipitate is filtered off under suction and washed with water and ethanol. There are obtained 66 mg of (6R,7R)-7-amino-3-[[[2-(N-hydroxy-N-methylcarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4,2,01oct-2-ene-2-carboxylic acid as a white powder.

reactant | N-Hydroxy-7-mercapto-N,5-dimethyl-s-triazolo[1,5-a]pyrimidine-2-carboxamide | 0.22 mmol, 53 mg | ON(C(=O)C1=NN2C(N=C(C=C2S)C)=N1)C | C8H9N5O2S
reactant | 7-aminocephalosporanic acid | 0.2 mmol, 54 mg | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride diethyl etherate | 0.5 ml | B(F)(F)F.CCOCC
reactant | dichloromethane | about 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane sulpholane | 1 ml | ClCCl.S1(=O)(=O)CCCC1
product | (6R,7R)-7-amino-3-[[[2-(N-hydroxy-N-methylcarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4,2,01oct-2-ene-2-carboxylic acid | 66 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(N(C)O)=O)C | C16H17N7O5S2
